* d:\analog_vlsi\mixed_signal_projects\6t_ram_cell\6t_ram_cell.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m3 net-_m3-pad1_ q net-_m2-pad1_ net-_m3-pad1_ CMOSP W=360n L=180n M=1
m5 net-_m3-pad1_ net-_m2-pad1_ q net-_m3-pad1_ CMOSP W=360n L=180n M=1
m2 net-_m2-pad1_ q gnd gnd CMOSN W=180n L=180n M=1
m4 q net-_m2-pad1_ gnd gnd CMOSN W=180n L=180n M=1
m1 q wl bl gnd CMOSN W=180n L=180n M=1
m6 blb wl net-_m2-pad1_ gnd CMOSN W=180n L=180n M=1
v3  bl gnd pulse(0 1.8 1u 1p 1p 1u 2u)
v4  blb gnd pulse(0 1.8 0 1p 1p 1u 2u)
v1 net-_m3-pad1_ gnd  dc 1.8
v2  wl gnd pulse(0 1.8 0 1p 1p 5u 10u)
* u1  wl plot_v1
* u2  bl plot_v1
* u3  q plot_v1
* u4  blb plot_v1
.tran 1e-06 10e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(wl)+8 v(bl)+6 v(blb)+4 v(q)+2
.endc
.end