* c:\esimprojects\abhinav_goel_circuit\abhinav_goel_circuit.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m3 net-_m3-pad1_ ain net-_m10-pad3_ net-_m10-pad3_ CMOSP W=2.50u L=2.50u M=1
m6 net-_m10-pad1_ ain net-_m6-pad3_ net-_m6-pad3_ CMOSP W=2.50u L=2.50u M=1
m10 net-_m10-pad1_ bin net-_m10-pad3_ net-_m10-pad3_ CMOSP W=2.50u L=2.50u M=1
m12 net-_m12-pad1_ cin net-_m10-pad3_ net-_m10-pad3_ CMOSP W=2.50u L=2.50u M=1
m15 net-_m12-pad1_ ain net-_m10-pad3_ net-_m10-pad3_ CMOSP W=2.50u L=2.50u M=1
m17 net-_m12-pad1_ bin net-_m17-pad3_ net-_m17-pad3_ CMOSP W=2.50u L=2.50u M=1
m19 net-_m19-pad1_ ain net-_m10-pad3_ net-_m10-pad3_ CMOSP W=2.50u L=2.50u M=1
m23 net-_m23-pad1_ bin net-_m19-pad1_ net-_m19-pad1_ CMOSP W=2.50u L=2.50u M=1
m24 net-_m13-pad3_ cin net-_m23-pad1_ net-_m23-pad1_ CMOSP W=2.50u L=2.50u M=1
m14 net-_m13-pad3_ net-_m13-pad2_ net-_m12-pad1_ net-_m12-pad1_ CMOSP W=2.50u L=2.50u M=1
m4 net-_m13-pad2_ bin net-_m3-pad1_ net-_m3-pad1_ CMOSP W=2.50u L=2.50u M=1
m8 net-_m13-pad2_ cin net-_m10-pad1_ net-_m10-pad1_ CMOSP W=2.50u L=2.50u M=1
m2 net-_m1-pad1_ bin net-_m13-pad2_ net-_m13-pad2_ CMOSN W=2.50u L=2.50u M=1
m7 net-_m5-pad1_ cin net-_m13-pad2_ net-_m13-pad2_ CMOSN W=2.50u L=2.50u M=1
m13 net-_m11-pad1_ net-_m13-pad2_ net-_m13-pad3_ net-_m13-pad3_ CMOSN W=2.50u L=2.50u M=1
m1 net-_m1-pad1_ ain gnd gnd CMOSN W=2.50u L=2.50u M=1
m9 net-_m5-pad1_ bin gnd gnd CMOSN W=2.50u L=2.50u M=1
m16 net-_m11-pad1_ ain gnd gnd CMOSN W=2.50u L=2.50u M=1
m18 net-_m11-pad1_ bin gnd gnd CMOSN W=2.50u L=2.50u M=1
m20 net-_m13-pad3_ cin net-_m20-pad3_ net-_m20-pad3_ CMOSN W=2.50u L=2.50u M=1
m21 net-_m20-pad3_ bin net-_m21-pad3_ net-_m21-pad3_ CMOSN W=2.50u L=2.50u M=1
m22 net-_m21-pad3_ ain gnd gnd CMOSN W=2.50u L=2.50u M=1
m27 net-_m10-pad3_ net-_m13-pad3_ sum sum CMOSP W=2.50u L=2.50u M=1
m26 sum net-_m13-pad3_ gnd gnd CMOSN W=2.50u L=2.50u M=1
m28 net-_m10-pad3_ net-_m13-pad2_ carry carry CMOSP W=2.50u L=2.50u M=1
m25 carry net-_m13-pad2_ gnd gnd CMOSN W=2.50u L=2.50u M=1
v4  net-_m10-pad3_ gnd 5
v3  ain gnd pulse(0 5 0 0 0 5m 20m)
v2  bin gnd pulse(0 7 0 0 0 10m 20m)
v1  cin gnd pulse(0 10 0 0 0 15m 20m)
r2  ain gnd 10k
r3  bin gnd 10k
r1  cin gnd 10k
r4  sum gnd 10k
r5  carry gnd 10k
* u3  ain plot_v1
* u1  bin plot_v1
* u2  cin plot_v1
* u5  carry plot_v1
* u4  sum plot_v1
m5 net-_m5-pad1_ ain gnd gnd CMOSN W=2.50u L=2.50u M=1
m11 net-_m11-pad1_ cin gnd gnd CMOSN W=2.50u L=2.50u M=1
.tran 0.05e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ain)
plot v(bin)
plot v(cin)
plot v(carry)
plot v(sum)
.endc
.end
