* c:\esimprojects\abhinav_goel_circuit\abhinav_goel_circuit.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" tt
 
xm3 net-_m3-pad1_ ain net-_m10-pad3_ net-_m10-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm6 net-_m10-pad1_ ain net-_m6-pad3_ net-_m6-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm10 net-_m10-pad1_ bin net-_m10-pad3_ net-_m10-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm12 net-_m12-pad1_ cin net-_m10-pad3_ net-_m10-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm15 net-_m12-pad1_ ain net-_m10-pad3_ net-_m10-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm17 net-_m12-pad1_ bin net-_m17-pad3_ net-_m17-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm19 net-_m19-pad1_ ain net-_m10-pad3_ net-_m10-pad3_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm23 net-_m23-pad1_ bin net-_m19-pad1_ net-_m19-pad1_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm24 net-_m13-pad3_ cin net-_m23-pad1_ net-_m23-pad1_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm14 net-_m13-pad3_ net-_m13-pad2_ net-_m12-pad1_ net-_m12-pad1_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm4 net-_m13-pad2_ bin net-_m3-pad1_ net-_m3-pad1_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm8 net-_m13-pad2_ cin net-_m10-pad1_ net-_m10-pad1_ sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm2 net-_m1-pad1_ bin net-_m13-pad2_ net-_m13-pad2_ sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm7 net-_m5-pad1_ cin net-_m13-pad2_ net-_m13-pad2_ sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm13 net-_m11-pad1_ net-_m13-pad2_ net-_m13-pad3_ net-_m13-pad3_ sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm1 net-_m1-pad1_ ain gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm9 net-_m5-pad1_ bin gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm16 net-_m11-pad1_ ain gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm18 net-_m11-pad1_ bin gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm20 net-_m13-pad3_ cin net-_m20-pad3_ net-_m20-pad3_ sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm21 net-_m20-pad3_ bin net-_m21-pad3_ net-_m21-pad3_ sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm22 net-_m21-pad3_ ain gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm27 net-_m10-pad3_ net-_m13-pad3_ sum sum sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm26 sum net-_m13-pad3_ gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm28 net-_m10-pad3_ net-_m13-pad2_ carry carry sky130_fd_pr__pfet_01v8 W=1.29 L=0.18
xm25 carry net-_m13-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
v4  net-_m10-pad3_ gnd 5
v3  ain gnd pulse(0 5 0 0 0 5m 20m)
v2  bin gnd pulse(0 7 0 0 0 10m 20m)
v1  cin gnd pulse(0 10 0 0 0 15m 20m)
r2  ain gnd 10k
r3  bin gnd 10k
r1  cin gnd 10k
r4  sum gnd 10k
r5  carry gnd 10k
* u3  ain plot_v1
* u1  bin plot_v1
* u2  cin plot_v1
* u5  carry plot_v1
* u4  sum plot_v1
xm5 net-_m5-pad1_ ain gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
xm11 net-_m11-pad1_ cin gnd gnd sky130_fd_pr__nfet_01v8 W=0.5 L=0.18
.tran 0.05e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ain)
plot v(bin)
plot v(cin)
plot v(carry)
plot v(sum)
.endc
.end
